US07511050B2
Step B: 6-bromo-4-pentyl-4,7-dihydro-8H-tetrazolo[1,5-a]purin-8-one
The mixture of 4-pentyl-4,7-dihydro-8H-tetrazolo[1,5-a]purin-8-one (94.6 mg, 0.38 mmol) and NBS (75 mg, 0.42 mmol) in THF (20 ml) was stirred at 70° C. for 1 hour. After evaporation of solvent, the residue was purified by preparative LC-MS to yield the desired product (17.1 mg, 13.7%). LCMS calculated for C10H13BrN7O(M+H): 326.0; found: 326.0.

reactant | 4-pentyl-4,7-dihydro-8H-tetrazolo[1,5-a]purin-8-one | 0.38 mmol, 94.6 mg | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)N=NN2 | C10H13N7O
reactant | NBS | 0.42 mmol, 75 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-bromo-4-pentyl-4,7-dihydro-8H-tetrazolo[1,5-a]purin-8-one | 17.1 mg, 13.7% | BrC1=NC=2N(C=3N(C(C2N1)=O)N=NN3)CCCCC | C10H12BrN7O
